2146-07-09 08:56:00 Physician Attending Progress Note
Chief Complaint: Small Bowel Obstruction
   Hypotension
   Arthritis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2146-7-8**] 06:37 PM
 MULTI LUMEN - START [**2146-7-8**] 08:00 PM
 ARTERIAL LINE - START [**2146-7-8**] 08:00 PM
   HYPOTENSION-
   SBP maintained at 90-100 with non-invasive cuff following IVF after 6.5
   liters IVF
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Tolectin 200 (Oral) (Tolmetin Sodium)
   Anaphylaxis;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Codeine
   Nausea/Vomiting
   Cipro (Oral) (Ciprofloxacin Hcl)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   loose
   frequent
   Zithromax (Oral) (Azithromycin)
   Rash;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Clindamycin
   Rash;
   Influenza Virus Vaccine
   don't give due
   Doxycycline
   Nausea/Vomiting
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2146-7-9**] 04:05 AM
   Vancomycin - [**2146-7-9**] 08:00 AM
   Metronidazole - [**2146-7-9**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-7-9**] 12:00 AM
   Midazolam (Versed) - [**2146-7-9**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2146-7-9**] 08:00 AM
   Fentanyl - [**2146-7-9**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2146-7-9**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 92 (89 - 103) bpm
   BP: 73/43(55) {70/34(-3) - 150/95(100)} mmHg
   RR: 9 (9 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 6 (6 - 12)mmHg
   Total In:
                                                                  5,591 mL
                                                                  5,281 mL
   PO:
   TF:
   IVF:
                                                                  5,591 mL
                                                                  5,281 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                  1,410 mL
   Urine:
                                                                    195 mL
                                                                    285 mL
   NG:
                                                                    750 mL
   Stool:
   Drains:
                                                                    110 mL
                                                                    375 mL
   Balance:
                                                                  2,386 mL
                                                                  3,871 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/43/162/24/4
   Ve: 9.4 L/min
   PaO2 / FiO2: 405
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: No(t) Bowel sounds present, Open midline incision, 2 JP
   drains
   Extremities: Right: 1+, Left: 1+--knee with no erythema or effusion
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.2 g/dL
   405 K/uL
   130 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   24 mg/dL
   101 mEq/L
   131 mEq/L
   35.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2146-7-8**]  07:59 PM
                             [**2146-7-8**]  08:12 PM
                             [**2146-7-9**]  03:38 AM
                             [**2146-7-9**]  04:35 AM
   WBC
   2.8
   11.3
   Hct
   38.4
   35.6
   Plt
   455
   405
   Cr
   0.6
   0.5
   TropT
   <0.01
   TCO2
   24
   29
   Glucose
   152
   130
   Other labs: PT / PTT / INR:13.0/30.7/1.1, CK / CKMB /
   Troponin-T:79/8/<0.01, ALT / AST:[**11-11**], Alk Phos / T Bili:33/,
   Differential-Neuts:84.0 %, Band:13.0 %, Lymph:1.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:472 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6
   g/dL, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: 7.43/43/162
   Imaging: CXR-Mild peri-hilar edema, ETT, CVL,
   Assessment and Plan
   83 yo female with history of arthritis and now admitted with knee pain
   on [**7-5**].  Hospitalization notable for increased abdominal distention
   and in the setting of concern for SBO based upon KUB imaging patient to
   the OR for EXP LAP.  There she did have high grade obstruction seen and
   subsequently had resection and re-anstamosis completed.  She did have
   abdominal wound left open for possible re-exploration.
   1)SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)-Thought to be secondary to adhesions from
   previous surgery and based upon findings may have been evolving prior
   to admission.  Of note her WBC has remained at 11-13 with bandemia
   noted.
   -Minimal drainage from NGT noted since 3am
   -Cefazolin/Falgyl/Vanco
   -Continue NGT to suction
   -Will move to OR today per surgery given concerning findings on
   previous exploration
   2)HYPOTENSION (NOT SHOCK)--She has had persistent elevation in HR,
   decrease in MAP and with CVP decreased it has now been re-established
   to 12 following IVF given with CVP=6 at start.  Patient with issue
   related to integrity of A-line tracing and have moved to NIV cuff
   measurement.
   -Will need to re-site A-line for BP monitoring
   -Will continue broad spectrum ABX with Vanco/[**Last Name (un) **]/Flagyl/cefazolin
   thorugh the night
will re-discuss with surgery based upon findings
   overnight
   -Avoid pressors at all costs
   3)Arthritis-Unclear source and joint has not been sampled.  Has
   undergone empiric increase in steroid dosing with Solumdrol IV trialed.
   -Solumedrol 40mg IV q 8 hours
   4)Respiratory Failure-Patient with intubation continued in the setting
   of likely need to return to OR today and has had continued good
   tolerance of ventilatory support.
   -Will continue with A/C support
   -Mechanics with resistance=6 and Compliance=30 and preserved PaO2
   acceptable.
   -Continue and consider PEEP increase if worsening hypoxia and edema.
   ICU Care
   Nutrition: NPO
will have to consider TPN
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-7-8**] 06:36 PM
   Multi Lumen - [**2146-7-8**] 08:00 PM
   Arterial Line - [**2146-7-8**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes

2146-07-10 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2146-7-9**] 10:15 AM
 OR RECEIVED - At [**2146-7-9**] 11:30 AM
 ARTERIAL LINE - STOP [**2146-7-9**] 02:40 PM
   - on A/C vent post-op (abdomen closed)
   - d/c'd standing Abx per surgery, also avoid pressors
   - on 100cc/hr LR overnight
   - decided a-line was unecessary to place
   - Urine looked mirky to nurse overnight, did U/A
   Allergies:
   Tolectin 200 (Oral) (Tolmetin Sodium)
   Anaphylaxis;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Codeine
   Nausea/Vomiting
   Cipro (Oral) (Ciprofloxacin Hcl)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   loose
   frequent
   Zithromax (Oral) (Azithromycin)
   Rash;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Clindamycin
   Rash;
   Influenza Virus Vaccine
   don't give due
   Doxycycline
   Nausea/Vomiting
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2146-7-9**] 04:05 AM
   Cefazolin - [**2146-7-9**] 09:00 AM
   Metronidazole - [**2146-7-9**] 04:00 PM
   Vancomycin - [**2146-7-9**] 07:43 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2146-7-9**] 07:43 PM
   Fentanyl - [**2146-7-9**] 07:43 PM
   Famotidine (Pepcid) - [**2146-7-10**] 12:25 AM
   Heparin Sodium (Prophylaxis) - [**2146-7-10**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-7-10**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 85 (84 - 99) bpm
   BP: 113/57(69) {92/42(55) - 118/59(69)} mmHg
   RR: 18 (8 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (8 - 10)mmHg
   Total In:
                                                                  7,981 mL
                                                                    862 mL
   PO:
   TF:
   IVF:
                                                                  7,981 mL
                                                                    862 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    475 mL
   Urine:
                                                                    690 mL
                                                                    225 mL
   NG:
                                                                    890 mL
                                                                    250 mL
   Stool:
   Drains:
                                                                    720 mL
   Balance:
                                                                  5,681 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 408 (361 - 420) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 14 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.43/44/95.[**Numeric Identifier 143**]/29/3
   Ve: 8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   FiO2: 40% RSBI: 53 PIP: 14 cmH2O Plateau: 23 cmH2O SpO2: 96%
   ABG: 7.43/44/95.[**Numeric Identifier 143**]/29/3 Ve: 8 L/min PaO2 / FiO2: 240
   General: intubated, sedated
   HEENT: Sclera anicteric, dry MM, ETT in place, NGT draining bilious
   fluid
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: open midline incision covered by plastic with 2 JP drains
   draining serosanguinous fluid, soft, non-tender, non-distended,
   decreased bowel sounds, no rebound tenderness or guarding, unable to
   assess for organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   pneumoboots in place
   Labs / Radiology
   287 K/uL
   10.3 g/dL
   100 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.5 mEq/L
   18 mg/dL
   101 mEq/L
   134 mEq/L
   31.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2146-7-8**]  07:59 PM
                             [**2146-7-8**]  08:12 PM
                             [**2146-7-9**]  03:38 AM
                             [**2146-7-9**]  04:35 AM
                             [**2146-7-9**]  02:14 PM
                             [**2146-7-10**]  03:44 AM
                             [**2146-7-10**]  06:45 AM
   WBC
   2.8
   11.3
   14.5
   14.1
   Hct
   38.4
   35.6
   34.7
   31.1
   Plt
   455
   405
   383
   287
   Cr
   0.6
   0.5
   0.4
   0.4
   TropT
   <0.01
   TCO2
   24
   29
   30
   Glucose
   152
   130
   107
   100
   Other labs: PT / PTT / INR:14.3/31.3/1.2, CK / CKMB /
   Troponin-T:79/8/<0.01, ALT / AST:[**11-11**], Alk Phos / T Bili:33/,
   Differential-Neuts:66.0 %, Band:25.0 %, Lymph:7.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:472 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6
   g/dL, LDH:129 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 HYPOTENSION (NOT SHOCK)
   This is a 83 yo female with high grade SBO now POD #0 s/p partial small
   bowel resection with abdomen left open, now transferred to the [**Hospital Unit Name 1**] for
   management.
   .
   #  High Grade SBO: s/p ex lap with partial small bowel resection,
   abdomen left open for re-look in the morning.
   - appreciate surgery recs
   - will keep pt sedated to avoid risk of evisceration
   - cont flagyl and cefazolin for prophylaxis while abdomen remains open
   - aggressive IVF resuscitation to avoid pressors if able
   - monitor UOP to assess fluid status and bolus prn for <30cc/h
   - plan to go to the OR tomorrow for a second look
   .
   #  Respiratory:  Pt is intubated post-op with abdomen left open.
   Currently tolerating mechanical ventilation well.
   - continue assist control ventilation at current settings
   - check ABG in the AM
   - fentanyl and versed for sedation (propofol was felt to be causing
   hypotension)
   .
   #  Hyponatremia: Initially thought [**1-24**] pain/nausea related SIADH. Her
   home lasix has been held while in house. However, given [**Month (only) **] PO intake
   and Urine studies with Na<10 (and Hgb concentrated), more consistent
   with volume depletion.
   - aggressive IVF for now as above
   - cont to monitor
   -Was 131 on admission, lasix stopped, no IVFs given-->then dropped 128
   [**7-6**]-->500cc IVFs-->dropped 127 [**7-7**]-->1.5L IVFs-->128 on [**7-8**]
   -continue aggressive IVFs 100cc/hr given npo, NGT outpt. monitor uop.
   -If Na remains low, needs renal consult.
   -cont to hold Lasix
   .
   #  Acute atraumatic L knee pain/LE spasms: No history of trauma. On
   exam, no inflamm changes (effusion/erythema). Xray no fx and no
   effusion. Unclear etiology. No h/o gout/psuedogout but is at risk, esp
   given elevated ESR/CRP, though would have expected some inflamm
   changes. Not typical for sciatica. No DVT on LENIs.  Difficult to
   assess now that patient is intubated and sedated.
   -cont tylenol 1000mg TID. prednisone converted to solumedrol as above.
   Stopped salsalate given dyspepsia/nausea/vomiting
   -anti-emetics
   -if worsening, consider rheum consult for further eval
   .
   #  Leukopenia, neutrophilia: WBC dropped from 13.6 to 2.8 post-op. UA
   neg on admission, repeat with wbc but no bacteria, urine culture
   contaminated. CXR nothing acute. Likely related to high-grade SBO.  She
   is afebrile.
   -cefazolin/flagyl empirically to cover GI pathogens
   -cont to monitor WBC
   -culture if spikes
   .
   #  Osteoporosis/compression fractures:  No acute issues.
   -cont Ca+Vit D and fosamax. no acute issues.
   .
   #  Dyslipidemia - cont lipitor
   .
   #  Interstitial lung disease/RAD:
   -advair [**Hospital1 **] and albuterol prn
   .
   #  Allergic Rhinitis: flonase [**Hospital1 **]
   .
   #  Multiple Sclerosis: No active issues.
   .
   #  Chronic LE edema: On chronic lasix [**10-11**] QOD. Holding as above due
   to volume depletion, hypoNa.
   .
   # FEN: IVF as above, replete electrolytes prn, NPO
   .
   # Prophylaxis: Subcutaneous heparin, IV PPI
   .
   # Access: R subclavian CVL, L arterial line
   .
   # Code: full code
   .
   # Communication:
   - daughter [**Name (NI) 8835**] [**Telephone/Fax (1) 8836**]
   - son [**Name (NI) 2477**] [**Telephone/Fax (1) 8837**]
   .
   # Disposition: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-7-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-07-10 11:13:00 Physician Attending Progress Note
Chief Complaint: Small Bowel Obstruction
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2146-7-9**] 10:15 AM
 OR RECEIVED - At [**2146-7-9**] 11:30 AM
 ARTERIAL LINE - STOP [**2146-7-9**] 02:40 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Tolectin 200 (Oral) (Tolmetin Sodium)
   Anaphylaxis;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Codeine
   Nausea/Vomiting
   Cipro (Oral) (Ciprofloxacin Hcl)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   loose
   frequent
   Zithromax (Oral) (Azithromycin)
   Rash;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Clindamycin
   Rash;
   Influenza Virus Vaccine
   don't give due
   Doxycycline
   Nausea/Vomiting
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2146-7-9**] 04:05 AM
   Cefazolin - [**2146-7-9**] 09:00 AM
   Metronidazole - [**2146-7-9**] 04:00 PM
   Vancomycin - [**2146-7-9**] 07:43 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2146-7-9**] 07:43 PM
   Fentanyl - [**2146-7-9**] 07:43 PM
   Famotidine (Pepcid) - [**2146-7-10**] 12:25 AM
   Heparin Sodium (Prophylaxis) - [**2146-7-10**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2146-7-10**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 73 (73 - 99) bpm
   BP: 96/48(60) {92/42(55) - 118/59(69)} mmHg
   RR: 15 (8 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (8 - 11)mmHg
   Total In:
                                                                  7,981 mL
                                                                  2,064 mL
   PO:
   TF:
   IVF:
                                                                  7,981 mL
                                                                  2,064 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    563 mL
   Urine:
                                                                    690 mL
                                                                    313 mL
   NG:
                                                                    890 mL
                                                                    250 mL
   Stool:
   Drains:
                                                                    720 mL
   Balance:
                                                                  5,681 mL
                                                                  1,501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 483 (361 - 483) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 18 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.43/44/95.[**Numeric Identifier 143**]/29/3
   Ve: 11.1 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : Left, Diminished: )
   Abdominal: No(t) Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   287 K/uL
   100 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.5 mEq/L
   18 mg/dL
   101 mEq/L
   134 mEq/L
   31.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2146-7-8**]  07:59 PM
                             [**2146-7-8**]  08:12 PM
                             [**2146-7-9**]  03:38 AM
                             [**2146-7-9**]  04:35 AM
                             [**2146-7-9**]  02:14 PM
                             [**2146-7-10**]  03:44 AM
                             [**2146-7-10**]  06:45 AM
   WBC
   2.8
   11.3
   14.5
   14.1
   Hct
   38.4
   35.6
   34.7
   31.1
   Plt
   455
   405
   383
   287
   Cr
   0.6
   0.5
   0.4
   0.4
   TropT
   <0.01
   TCO2
   24
   29
   30
   Glucose
   152
   130
   107
   100
   Other labs: PT / PTT / INR:14.3/31.3/1.2, CK / CKMB /
   Troponin-T:79/8/<0.01, ALT / AST:[**11-11**], Alk Phos / T Bili:33/,
   Differential-Neuts:66.0 %, Band:25.0 %, Lymph:7.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:472 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6
   g/dL, LDH:129 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR--ETT, CVL and NGT in good position, increased interstitial
   edema and pleural fluid noted.
   Right humerus does appear to be dislocated
   Assessment and Plan
   83 yo female with remote history of abdominal surgery now admitted with
   SBO and s/o lysis of adhesion with improved bowel findings on
   re-exploration.  She has tolerated wean to PSV following return to ICU
   and has now achieved a favorable RSBI this morning.
   1)SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)-
   -S/P re-exploration
   -Will maintain NPO
   -Continue with PRN pain control with Fentanyl
   2)RESPIRATORY FAILURE--Secondary to intra-abdominal process and fluid
   balance substantially positive.  She does have significant concern for
   possible worsening with extubation in the setting of significant
   positive fluid balance.
   -Will need to be cautious
   -Will continue with PSV and given favorable RSBI will trial on SBT x 60
   minutes and evaluate with ABG and clinical exam.
   -[**Month (only) 51**] need to wait until 24 hours and stability
   3)HYPOTENSION-
   -Hydrocortisone to continue
   -Will utilize fluids by bolus in addition to maintenance fluids
   -Will follow up cultures in patient on no ABX
   -Will follow urine output going forward
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-7-8**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 Blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2146-07-11 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient extubated and tolerating it well without any difficulty
   breathing.
   - UOP started to increase and self-diurese (~60cc/hr)
   - Patient more oriented.
 INVASIVE VENTILATION - STOP [**2146-7-10**] 02:10 PM
   Allergies:
   Tolectin 200 (Oral) (Tolmetin Sodium)
   Anaphylaxis;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Codeine
   Nausea/Vomiting
   Cipro (Oral) (Ciprofloxacin Hcl)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   loose
   frequent
   Zithromax (Oral) (Azithromycin)
   Rash;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Clindamycin
   Rash;
   Influenza Virus Vaccine
   don't give due
   Doxycycline
   Nausea/Vomiting
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2146-7-9**] 04:05 AM
   Cefazolin - [**2146-7-9**] 09:00 AM
   Metronidazole - [**2146-7-9**] 04:00 PM
   Vancomycin - [**2146-7-9**] 07:43 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-7-11**] 12:01 AM
   Heparin Sodium (Prophylaxis) - [**2146-7-11**] 12:02 AM
   Morphine Sulfate - [**2146-7-11**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-7-11**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 69 (61 - 102) bpm
   BP: 111/56(69) {95/39(53) - 145/86(94)} mmHg
   RR: 21 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (7 - 12)mmHg
   Total In:
                                                                  2,653 mL
                                                                    119 mL
   PO:
   TF:
   IVF:
                                                                  2,653 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,363 mL
                                                                    550 mL
   Urine:
                                                                    883 mL
                                                                    450 mL
   NG:
                                                                    480 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,290 mL
                                                                   -432 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 411 (390 - 494) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 9 cmH2O
   SpO2: 97%
   ABG: 7.42/45/90.[**Numeric Identifier 126**]/30/3
   Ve: 7 L/min
   PaO2 / FiO2: 257
   Physical Examination
   General: intubated, sedated
   HEENT: Sclera anicteric, dry MM, NGT draining bilious fluid
   Neck: supple, JVP not elevated
   Lungs: Crackles anteriorly R>L.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, distended. Decreased bowel sounds. Midline staples
   c/d/i.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   pneumoboots in place
   Neuro: Not assessed
   Labs / Radiology
   281 K/uL
   9.2 g/dL
   75 mg/dL
   0.3 mg/dL
   30 mEq/L
   3.8 mEq/L
   15 mg/dL
   101 mEq/L
   136 mEq/L
   28.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2146-7-8**]  07:59 PM
                             [**2146-7-8**]  08:12 PM
                             [**2146-7-9**]  03:38 AM
                             [**2146-7-9**]  04:35 AM
                             [**2146-7-9**]  02:14 PM
                             [**2146-7-10**]  03:44 AM
                             [**2146-7-10**]  06:45 AM
                             [**2146-7-10**]  01:34 PM
                             [**2146-7-11**]  04:11 AM
   WBC
   2.8
   11.3
   14.5
   14.1
   15.3
   Hct
   38.4
   35.6
   34.7
   31.1
   28.0
   Plt
   455
   405
   383
   287
   281
   Cr
   0.6
   0.5
   0.4
   0.4
   0.3
   TropT
   <0.01
   TCO2
   24
   29
   30
   30
   Glucose
   152
   130
   107
   100
   75
   Other labs: PT / PTT / INR:13.2/32.7/1.1, CK / CKMB /
   Troponin-T:79/8/<0.01, ALT / AST:[**11-11**], Alk Phos / T Bili:33/,
   Differential-Neuts:66.0 %, Band:25.0 %, Lymph:7.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:472 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6
   g/dL, LDH:129 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 HYPOTENSION (NOT SHOCK)
   This is a 83 yo female with high grade SBO now POD #3 s/p partial small
   bowel resection with abdomen left open on [**7-8**], re-exploration and
   closure on [**7-9**], now transferred to the [**Hospital Unit Name 1**] for management.
   #  Leukocytosis: WBC increased from 14.1 yesterday to 15.3 today. UA
   neg on admission, repeat with wbc but no bacteria, urine culture
   contaminated. CXR nothing acute. Likely related to high-grade SBO or
   stress dose steroids.  She is afebrile.
   -pt was [**Last Name (LF) 8894**], [**First Name3 (LF) **] f/u
   -cont to monitor WBC
   .
   . #  Respiratory:  Pt was extubated yesterday.  Currently tolerating NC
   at 4L.
   - will cont to monitor for any signs of respiratory distress.
   #  High Grade SBO: s/p ex lap with partial small bowel resection,
   abdomen closed.
   - will f/u surgery recs
   --will monitor for signs of abd compartment syndrome
   .
   #  Hyponatremia: Resolved, sodium in normal range. Initially thought
   [**1-24**] pain/nausea related SIADH. Her home lasix has been held while in
   house. However, given [**Month (only) **] PO intake and Urine studies with Na<10 (and
   Hgb concentrated), more consistent with volume depletion.  Na 136
   today.
   - cont to monitor
   -cont to hold Lasix
   .
   #  Acute atraumatic L knee pain/LE spasms: No history of trauma. On
   exam, no inflamm changes (effusion/erythema). Xray no fx and no
   effusion. Unclear etiology. No h/o gout/psuedogout but is at risk, esp
   given elevated ESR/CRP, though would have expected some inflamm
   changes. Not typical for sciatica. No DVT on LENIs.
   -will decrease steroids to 20 mg hydrocortisone
   -cont morphine 2mg IV prn.
    -cont. anti-emetics
   -if worsening, consider rheum consult for further eval
   .
   #  Osteoporosis/compression fractures:  No acute issues.
   -cont Ca+Vit D and fosamax. no acute issues.
   .
   #  Dyslipidemia - cont lipitor
   .
   #  Interstitial lung disease/RAD:
   -advair [**Hospital1 **] and albuterol prn
   .
   #  Allergic Rhinitis: flonase [**Hospital1 **]
   .
   #  Multiple Sclerosis: No active issues.
   .
   #  Chronic LE edema: On chronic lasix [**10-11**] QOD. Holding as above due
   to volume depletion.
   ICU Care
   Nutrition: Currently NPO. LR at 100 cc/hr.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-7-8**] 08:00 PM
   Prophylaxis:
   DVT: SC heparin, boots
   Stress ulcer: famotidine
   VAP:  elevation of bed
   Comments:
   Communication:  Comments:  daughter [**Name (NI) 8835**] [**Telephone/Fax (1) 8836**], son [**Name (NI) 2477**]
   [**Telephone/Fax (1) 8837**]
   Code status: Full code
   Disposition: ICU level of care.

2146-07-12 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - UOP ~30cc/hr, lasix 20mg IV given
   - Bandemia resolved (0 bands last diff.)
   - Hydrocort decreased to 25mg IV q24h
   - NG was clamped as per surgery
   Allergies:
   Tolectin 200 (Oral) (Tolmetin Sodium)
   Anaphylaxis;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Codeine
   Nausea/Vomiting
   Cipro (Oral) (Ciprofloxacin Hcl)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   loose
   frequent
   Zithromax (Oral) (Azithromycin)
   Rash;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Clindamycin
   Rash;
   Influenza Virus Vaccine
   don't give due
   Doxycycline
   Nausea/Vomiting
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2146-7-9**] 09:00 AM
   Metronidazole - [**2146-7-9**] 04:00 PM
   Vancomycin - [**2146-7-9**] 07:43 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2146-7-11**] 09:15 PM
   Morphine Sulfate - [**2146-7-11**] 09:49 PM
   Heparin Sodium (Prophylaxis) - [**2146-7-11**] 11:12 PM
   Famotidine (Pepcid) - [**2146-7-11**] 11:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-7-12**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 84 (64 - 88) bpm
   BP: 108/44(60) {96/40(53) - 128/70(85)} mmHg
   RR: 23 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (3 - 8)mmHg
   Bladder pressure: 7 (7 - 7) mmHg
                                Total In:
                                                                  1,533 mL
                                                                    500 mL
   PO:
                                TF:
   IVF:
                                                                  1,533 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    740 mL
   Urine:
                                                                  1,685 mL
                                                                    740 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                   -262 mL
                                                                   -241 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General: intubated, sedated
   HEENT: Sclera anicteric, dry MM,
   Neck: supple, JVP not elevated
   Lungs: Crackles anteriorly R>L.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, distended. Decreased bowel sounds. Midline staples
   c/d/i.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   pneumoboots in place
   Neuro: Not assessed
   Labs / Radiology
   323 K/uL
   9.9 g/dL
   54 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.4 mEq/L
   15 mg/dL
   104 mEq/L
   141 mEq/L
   29.5 %
   13.8 K/uL
        [image002.jpg]
                             [**2146-7-8**]  07:59 PM
                             [**2146-7-8**]  08:12 PM
                             [**2146-7-9**]  03:38 AM
                             [**2146-7-9**]  04:35 AM
                             [**2146-7-9**]  02:14 PM
                             [**2146-7-10**]  03:44 AM
                             [**2146-7-10**]  06:45 AM
                             [**2146-7-10**]  01:34 PM
                             [**2146-7-11**]  04:11 AM
                             [**2146-7-12**]  03:34 AM
   WBC
   2.8
   11.3
   14.5
   14.1
   15.3
   13.8
   Hct
   38.4
   35.6
   34.7
   31.1
   28.0
   29.5
   Plt
   455
   405
   383
   287
   281
   323
   Cr
   0.6
   0.5
   0.4
   0.4
   0.3
   0.4
   TropT
   <0.01
   TCO2
   24
   29
   30
   30
   Glucose
   152
   130
   107
   100
   75
   54
   Other labs: PT / PTT / INR:13.2/27.8/1.1, CK / CKMB /
   Troponin-T:79/8/<0.01, ALT / AST:[**11-11**], Alk Phos / T Bili:33/,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:472 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.9 g/dL,
   LDH:129 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   .
   Cx pending
   .
   CXR: (final read pending), no interval change
   Assessment and Plan
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 HYPOTENSION (NOT SHOCK)
   #  Respiratory:  Pt extubated.  Currently tolerating NC at 2L. Has e/o
   pulm edema with crackles on exam and good output to lasix. Has baseline
   interstitial lung disease for which she is on home inhalers.
   - increase home nebs  (advair [**Hospital1 **] and albuterol prn)
   - repeat lasix IV bolus today
   .
   #  High Grade SBO: s/p ex lap with partial small bowel resection,
   abdomen closed.
   - will f/u surgery recs
   --will monitor for signs of abd compartment syndrome
   .
   #  Oliguria / Hyponatremia: Resolved, sodium in normal range. Initially
   thought [**1-24**] pain/nausea related SIADH. Her home lasix has been held
   while in house. However, given [**Month (only) **] PO intake and Urine studies with
   Na<10 (and Hgb concentrated), more consistent with volume depletion.
   Na 136 today. Given 10 Lasix yesterday for low UOP, responded well.
   - cont to monitor
   - IVF, w/ Lasix bolus today again
   .
   #  Leukocytosis: WBC increased from 14.1 yesterday to 15.3 today. UA
   neg on admission, repeat with wbc but no bacteria, urine culture
   contaminated. CXR nothing acute. Likely related to high-grade SBO or
   stress dose steroids.  She is afebrile.
   -f/u Cx, no abx currently
   -cont to monitor WBC
   .
   # FEN: NGT out
   - ADAT
   .
   #  Acute atraumatic L knee pain/LE spasms: No history of trauma. On
   exam, no inflamm changes (effusion/erythema). Xray no fx and no
   effusion. Unclear etiology. No h/o gout/psuedogout but is at risk, esp
   given elevated ESR/CRP, though would have expected some inflamm
   changes. Not typical for sciatica. No DVT on LENIs.
   -will decrease steroids to 20 mg hydrocortisone
   -cont morphine 2mg q3h IV prn.
    -cont. anti-emetics
   -if worsening, consider rheum consult for further eval
   .
   #  Osteoporosis/compression fractures:  No acute issues.
   -cont Ca+Vit D and fosamax. no acute issues.
   .
   #  Dyslipidemia - cont lipitor
   .
   #  Allergic Rhinitis: flonase [**Hospital1 **]
   .
   #  Multiple Sclerosis: No active issues.
   .
   #  Chronic LE edema: On chronic lasix [**10-11**] QOD. Holding as above due
   to volume depletion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-7-8**] 08:00 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: callout today

2146-07-13 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- put out over 3L to IV lasix, CVP 10
   -- repleted K of 3.2
   -- had some nausea today with sips of juice (no vomitting)
   -- no stool/flatus
   Allergies:
   Tolectin 200 (Oral) (Tolmetin Sodium)
   Anaphylaxis;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Codeine
   Nausea/Vomiting
   Cipro (Oral) (Ciprofloxacin Hcl)
   Unknown;
   Ceftin (Oral) (Cefuroxime Axetil)
   loose
   frequent
   Zithromax (Oral) (Azithromycin)
   Rash;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Clindamycin
   Rash;
   Influenza Virus Vaccine
   don't give due
   Doxycycline
   Nausea/Vomiting
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2146-7-12**] 01:02 PM
   Morphine Sulfate - [**2146-7-12**] 11:00 PM
   Famotidine (Pepcid) - [**2146-7-12**] 11:20 PM
   Heparin Sodium (Prophylaxis) - [**2146-7-12**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-7-13**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 86 (75 - 98) bpm
   BP: 126/72(76) {122/49(65) - 146/72(84)} mmHg
   RR: 23 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 64 kg
   Height: 62 Inch
    CVP: 8 (2 - 12)mmHg
   Total In:
                                                                    790 mL
                                                                     75 mL
   PO:
   TF:
   IVF:
                                                                    790 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                    380 mL
   Urine:
                                                                  3,910 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,120 mL
                                                                   -305 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 4L
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General: intubated, sedated
   HEENT: Sclera anicteric, dry MM,
   Neck: supple, JVP not elevated
   Lungs: Crackles/wheeze anteriorly b/l lung fields unchanged.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, distended. Decreased bowel sounds. Midline staples
   c/d/i.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   pneumoboots in place
   Neuro: Not assessed
   Labs / Radiology
   356 K/uL
   10.3 g/dL
   53 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.6 mEq/L
   11 mg/dL
   98 mEq/L
   139 mEq/L
   31.2 %
   13.4 K/uL
        [image002.jpg]
                             [**2146-7-9**]  03:38 AM
                             [**2146-7-9**]  04:35 AM
                             [**2146-7-9**]  02:14 PM
                             [**2146-7-10**]  03:44 AM
                             [**2146-7-10**]  06:45 AM
                             [**2146-7-10**]  01:34 PM
                             [**2146-7-11**]  04:11 AM
                             [**2146-7-12**]  03:34 AM
                             [**2146-7-12**]  06:04 PM
                             [**2146-7-13**]  03:43 AM
   WBC
   11.3
   14.5
   14.1
   15.3
   13.8
   13.4
   Hct
   35.6
   34.7
   31.1
   28.0
   29.5
   31.2
   Plt
   [**Telephone/Fax (2) 8945**]
   Cr
   0.5
   0.4
   0.4
   0.3
   0.4
   0.4
   0.3
   TCO2
   29
   30
   30
   Glucose
   130
   107
   100
   75
   54
   69
   53
   Other labs: PT / PTT / INR:13.2/27.8/1.1, CK / CKMB /
   Troponin-T:79/8/<0.01, ALT / AST:[**11-11**], Alk Phos / T Bili:33/,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:472 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.9 g/dL,
   LDH:129 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 HYPOTENSION (NOT SHOCK)
   .
   This is a 83 yo female with high grade SBO now POD #3 s/p partial small
   bowel resection with abdomen left open on [**7-8**], re-exploration and
   closure on [**7-9**], now transferred to the [**Hospital Unit Name 1**] for management.
   .
   #  Respiratory:  Pt extubated.  Currently tolerating NC at 4L. Has e/o
   pulm edema with crackles on exam and good output to lasix. Has baseline
   interstitial lung disease for which she is on home inhalers.
   - increase home nebs  to standing advair [**Hospital1 **] and albuterol prn q8h
   - repeat lasix IV bolus today for goal of -1L
   .
   #  High Grade SBO / FENGI: s/p ex lap with partial small bowel
   resection, abdomen closed. NGT d/c
   - will f/u surgery recs
   --will monitor for signs of abd compartment syndrome
   -- pt feeling nauseous today with juice. will reduce diet to clears,
   and zofran x1 for improved PO intake
   .
   #  Oliguria / Hyponatremia: Resolved, sodium in normal range. Initially
   thought [**1-24**] pain/nausea related SIADH. Her home lasix has been held
   while in house. However, given [**Month (only) **] PO intake and Urine studies with
   Na<10 (and Hgb concentrated), more consistent with volume depletion.
   Na 136 today. Given 10 Lasix yesterday for low UOP, responded well.
   - cont to monitor AM/PM lytes
   - IVF, w/ Lasix bolus today again
   .
   #  Leukocytosis: WBC increased from 14.1 yesterday to 15.3 today. UA
   neg on admission, repeat with wbc but no bacteria, urine culture
   contaminated. CXR nothing acute. Likely related to high-grade SBO or
   stress dose steroids.  She is afebrile.
   -f/u Cx, no abx currently
   -cont to monitor WBC
   .
   # DM: Pt has functionally been NPO, has had FS in 50-70s. On RISS, but
   not given any. Hypoglycemia probably due to NPO and pt without any IVF
   (D5), although given pt on steroids, would expect higher FS. Although
   less likely, if she continues to be hypoglycemic, can consider
   potential underlying process (stressor, i.e. inflammation/infection,
   s/p surgery) for which she is not mounting a response to.
   - cont FS monitoring
   - advance diet to clears per above
   .
   #  Acute atraumatic L knee pain/LE spasms: No history of trauma. On
   exam, no inflamm changes (effusion/erythema). Xray no fx and no
   effusion. Unclear etiology. No h/o gout/psuedogout but is at risk, esp
   given elevated ESR/CRP, though would have expected some inflamm
   changes. Not typical for sciatica. No DVT on LENIs.
   -now on 25 mg hydrocortisone (equivalent to home dose)
   -cont morphine 2mg q3h IV prn.
   -if worsening, consider rheum consult for further eval
   .
   #  Osteoporosis/compression fractures:  No acute issues.
   -holding Ca+Vit D and fosamax home until taking good POs. no acute
   issues.
   .
   #  Dyslipidemia - holding home POs lipitor until taking good POs
   .
   #  Allergic Rhinitis: flonase [**Hospital1 **]
   .
   #  Multiple Sclerosis: No active issues.
   .
   #  Chronic LE edema: On chronic lasix at home of [**10-11**] QOD.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-7-8**] 08:00 PM
   Prophylaxis:
   DVT: SC heparin, boots
   Stress ulcer: famotidine
   VAP:  elevation of bed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to surgery today
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  83 yo F h/o inflammatory arthritis of
   unclear etiology, osteoporosis, ARDS post MVA trauma, hyperlipidemia
   admitted [**7-5**] with knee pain. Course c/b high grade SBO s/p ex-lap [**7-8**]
   with small bowel resection and re-exploration w/ closure of abd on
   [**7-9**].
   She responded well to lasix diuresis yesterday.  Poor PO, c/o nausea.
   She remains AF  BP 120/72   HR 80's  RR 23 with sat 97% on 4L NC   cvp
   8,  i/o --> -3100
   She is alert and in NAD.  Her lungs still have rales but wheezing had
   resolved.  RR, abd midline wound site c/d/I, NT, soft, +BS, trace
   edema, warm
   Labs notable for WBC 13.4, HCT 31,  na 139, K 3.6, Cr 0.3, glu 53
   CXR is rotated with stable b/l effusion l> r, full hilar vessels, no
   change from prior
   Micro--cx's with ngtd
   Agree with plan to continue supportive post-op care after resection of
   high grade SBO. She remains on NC O2 but is responding well to diuresis
   and appears more comfortable from resp standpoint. Her cxr continues to
   show effusions, hilar vascular fullness and she has dependent edema.
   Will continue to diurese gently for goal 1 L neg following lytes. Will
   change to standing combivent nebs, noting her wheeze has improved. Will
   wean O2.  Leukocytosis is mild, stable and she remains AF.  F/u pending
   cxs data with ngtd.   Remains on IV equivalent of home prednisone dose
   for inflammatory arthritis.  Will continue to encourage POs, advancing
   diet as per surgical team and monitoring blood sugars which have been
   intermittently low.  Zofran as needed if nausea continues to limit
   intake. Additional post-op care per surgical team. Remainder of plan as
   outlined in resident note.
   ICU: sc line, boots, h2b, sq hep.
   Stable for transfer to surgery service.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2146-7-13**] 02:36 PM ------